US08748418B2
Prepared in an analogous manner as described for intermediate A9A or A13A from (R)-545-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one (intermediate A16B) (300 mg, 819 μmol) and commercially available 4-fluoroaniline [CAS no 371-40-4] 4-fluoroaniline (157 μL, 1.64 mmol). The (R)-6,6-difluoro-5-(2-fluoro-5-(4-fluorophenylamino)phenyl)-5,7,7-trimethyl-1,4-oxazepan-3-one (181 mg, 55.7%) was obtained as a light yellow foam. MS (ISP): m/z=397.0 [(M+H)+].

reactant | 6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | 819 μmol, 300 mg | FC1(C(NC(COC1(C)C)=O)C)F | C8H13F2NO2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-fluoroaniline | 1.64 mmol, 157 μL | FC1=CC=C(N)C=C1 | C6H6FN
product | (R)-6,6-difluoro-5-(2-fluoro-5-(4-fluorophenylamino)phenyl)-5,7,7-trimethyl-1,4-oxazepan-3-one | 181 mg, 55.7% | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)NC1=CC=C(C=C1)F)F)F | C20H20F4N2O2
